US04462943
A solution of (S,S,S)-7-[2-[(1-ethoxycarbonyl-3-phenylpropyl)amino]-1-oxopropyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, diphenylmethyl ester (800 mg.) in a mixture of trifluoroacetic acid (15 ml.) and anisole (3 ml.) is stirred at 0° for 30 minutes. The solvent is removed at reduced pressure and the residue applied to an AG 50W-X2(H+) column. After washing with water, the column is eluted with aqueous pyridine. The fractions containing the product are combined and lyophilized to yield (S,S,S)-7-[2-[(1-ethoxycarbonyl-3-phenylpropyl)amino]-1-oxopropyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid.

reactant | (S,S,S)-7-[2-[(1-ethoxycarbonyl-3-phenylpropyl)amino]-1-oxopropyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, diphenylmethyl ester | 800 mg | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@H](C(=O)N1CC2(SCCS2)C[C@H]1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C35H40N2O5S2
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 3 ml | C1(=CC=CC=C1)OC | C7H8O
product | (S,S,S)-7-[2-[(1-ethoxycarbonyl-3-phenylpropyl)amino]-1-oxopropyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@H](C(=O)N1CC2(SCCS2)C[C@H]1C(=O)O)C | C22H30N2O5S2
